US05773612
A') 4-(2-Aminoethyl)-l-(benzyloxycarbonyl)piperazine
8.21 g of benzaldehyde are added to a solution of 10 g of 1-(2-aminoethyl)piperazine in 125 ml of toluene and the mixture is refluxed for 3 hours, the water formed being removed by means of a Dean-Stark apparatus. The reaction mixture is concentrated under vacuum, the residue is taken up with 100 ml of DCM, 13.45 ml of DIPEA are added and 11.03 ml of benzyl chloroformate are added dropwise. The reaction mixture is stirred overnight at RT and concentrated under vacuum. The residue is taken up with a saturated solution of potassium hydrogensulfate and stirred vigorously for 4 hours at RT. The aqueous phase is washed with ether, rendered alkaline to pH 9-10 by the addition of concentrated NaOH, saturated by the addition of NaCl and extracted with chloroform, the organic phase is dried over sodium sulfate and the solvent is evaporated off under vacuum to give 18.78 g of the expected product, which is used as such in the next step.

reactant | benzaldehyde | 8.21 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1-(2-aminoethyl)piperazine | 10 g | NCCN1CCNCC1 | C6H15N3
reactant | water | O | H2O
reactant | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-Aminoethyl)-l-(benzyloxycarbonyl)piperazine | 18.78 g | NCCN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H21N3O2
